US07176242B2
A solution of 3-[(dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoic acid (156 mg, 0.47 mmol), (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride (191 mg, 0.47 mmol), HOBt (64 mg, 0.47 mmol), and N-methylmorpholine (200 μL, 1.5 mmol) was stirred in dimethylformamide (2 mL) for 15 min. EDC (145 mg, 0.84 mmol) was added and the reaction mixture was stirred overnight. The reaction mixture was diluted with water, and extracted with ethyl acetate (3×25 mL). The organic layer was washed with 1 N hydrochloric acid (25 mL), saturated sodium bicarbonate (25 mL), saturated sodium chloride, dried (sodium sulfate), and concentrated under reduced pressure. Purification by flash column chromatography (silica, 1:9 methanol/chloroform) provided N1-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-N3,N3-dipropyl-5-(1,3-thiazol-2-yl)isophthalamide (33 mg): 1H NMR (500 MHz, CDCl3) δ 8.40 (br s, 1H, —NH), 8.15 (br s, 1H), 7.94 (br s, 1H), 7.80 (d, J=3 Hz, 1H), 7.51 (br s, 1H), 7.34 (d, J=3 Hz, 1H), 7.27–7.24 (m, 1H), 7.21–7.18 (m, 2H), 7.11–7.10 (m, 1H), 7.00 (br s, 1H), 6.62–6.58 (m, 1H), 4.23 (d, J=5 Hz, 1H), 3.91–3.85 (m, 3H), 3.57 (br s, 2H), 3.31 (br s, 2H), 3.05 (d, J=5 Hz, 4H), 2.83 (d, J=6 Hz, 2H), 2.64 (q, J=8 Hz, 2H), 1.75 (br s, 2H), 1.44 (t, J=7 Hz, 2H), 1.22 (t, J=8 Hz, 3H) 1.04 (t, J=7 Hz, 3H), 0.65 (t, J=7 Hz, 3H); ESI MS m/z 649 [M+H]+;

reactant | 3-[(dipropylamino)carbonyl]-5-(1,3-thiazol-2-yl)benzoic acid | 0.47 mmol, 156 mg | C(CC)N(C(=O)C=1C=C(C(=O)O)C=C(C1)C=1SC=CN1)CCC | C17H20N2O3S
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1[(3-ethylbenzyl)amino]butan-2-ol dihydrochloride | 0.47 mmol, 191 mg | Cl.Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F
reactant | HOBt | 0.47 mmol, 64 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 1.5 mmol, 200 μL | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.84 mmol, 145 mg
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N1-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-N3,N3-dipropyl-5-(1,3-thiazol-2-yl)isophthalamide | 33 mg | FC=1C=C(C[C@@H]([C@@H](CNCC2=CC(=CC=C2)CC)O)NC(C2=CC(C(=O)N(CCC)CCC)=CC(=C2)C=2SC=CN2)=O)C=C(C1)F | C36H42F2N4O3S
